US07638515B2
2-(4-Fluoro-3-methoxyphenyl)-2-methylpropionitrile
16.67 g (100.93 mmol) of (4-fluoro-3-methoxyphenyl)-acetonitrile is introduced with 30.1 g (211.96 mmol) of methyliodide into 158 ml of dimethylformamide. At 0° C., 8.50 g (211.96 mmol) of a 55-60% sodium hydride suspension is added in portions. After stirring overnight at room temperature, the reaction mixture is poured into ice water and then extracted three times with methyl tert-butyl ether. The combined organic extracts are washed with water and with brine. After the solvent is dried and spun off, the residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 5.11 g (26.2%) of the desired compound and 6.18 g of the monomethyl compound, which is realkylated, are isolated.

reactant | (4-fluoro-3-methoxyphenyl)-acetonitrile | 100.93 mmol, 16.67 g | FC1=C(C=C(C=C1)CC#N)OC | C9H8FNO
reactant | methyliodide | 211.96 mmol, 30.1 g | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide | 158 ml | CN(C=O)C | C3H7NO
product | 2-(4-Fluoro-3-methoxyphenyl)-2-methylpropionitrile | FC1=C(C=C(C=C1)C(C#N)(C)C)OC | C11H12FNO
